US07605136B2
(2S,3S,4S,5R,6S)-3,4,5-Triacetoxy-6-(4-formyl-2-fluoro-phenoxy)-tetrahydro-pyran-2-carboxylic acid methyl ester
14.2 g (35.8 mmol) of (2S,3S,4S,5R,6S)-3,4,5-triacetoxy-6-bromo-tetrahydro-pyran-2-carboxylic acid methyl ester is reacted analogously to Example LE1a with 5.05 g of 3-fluoro-4-hydroxybenzaldehyde, and after working-up and purification, 13.3 g (29.1 mmol, 81%) of the title compound is isolated.

reactant | (2S,3S,4S,5R,6S)-3,4,5-triacetoxy-6-bromo-tetrahydro-pyran-2-carboxylic acid methyl ester | 35.8 mmol, 14.2 g | COC(=O)[C@H]1O[C@H]([C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)OC(C)=O)Br | C13H17BrO9
reactant | 3-fluoro-4-hydroxybenzaldehyde | 5.05 g | FC=1C=C(C=O)C=CC1O | C7H5FO2
product | (2S,3S,4S,5R,6S)-3,4,5-Triacetoxy-6-(4-formyl-2-fluoro-phenoxy)-tetrahydro-pyran-2-carboxylic acid methyl ester | 29.1 mmol, 13.3 g, 81% | COC(=O)[C@H]1O[C@H]([C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)OC(C)=O)OC1=C(C=C(C=C1)C=O)F | C20H21FO11
